US06627637B2
N-(6-Chloro-9H-β-carbolin-8-yl)-nicotinamide
To a cold (3-5° C) solution of 9-amino-7-chloro-β-carboline (2.75 g, 12.7 mmol) in pyridine (150 ml) was added nicotinyl chloride hydrochloride (2.82 g, 15.8 mmol). The reaction was allowed to warm to RT and stirred for 20 h before diluting the reaction with water (100 ml) and 1M NaOH (25 ml). After stirring for 1 h at RT, the mixture was poured into water (200 ml). The mixture was allowed to stand for 1 h and the product was filtered to provide 3.80 g of the title compound after washing with water and drying under reduced pressure at RT.

reactant | 9-amino-7-chloro-β-carboline | 12.7 mmol, 2.75 g | NN1C2=CC(=CC=C2C=2C=CN=CC12)Cl | C11H8ClN3
reactant | nicotinyl chloride hydrochloride | 15.8 mmol, 2.82 g | Cl.C(C1=CN=CC=C1)Cl
reactant | water | 100 ml | O | H2O
reactant | NaOH | 1M, 25 ml | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
reactant | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | N-(6-Chloro-9H-β-carbolin-8-yl)-nicotinamide | 3.80 g | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(C1=CN=CC=C1)=O | C17H11ClN4O
